US08420655B2
To a solution of 2-fluoro-5-methoxybenzaldehyde (200 mg, 1.29 mmol) in DMSO (10 mL) are added 1,2,4-triazole (134 mg, 1.95 mmol) and K2CO3 (359 mg, 2.60 mmol) at room temperature. The solution is heated to 100° C. for 2 hours. The solution is cooled and is extracted with H2O (30 mL) and EtOAc (3×15 mL). The combined organic layer is dried with MgSO4 and is filtered. The filtrate is concentrated and the residue is purified by silica gel flash column chromatography with 50% EtOAc in heptane as the eluent to afford 5-methoxy-2-1,2,4-triazol-1-yl-benzaldehyde (53 mg, 20%) as a white foam.

reactant | 2-fluoro-5-methoxybenzaldehyde | 1.29 mmol, 200 mg | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | 1,2,4-triazole | 1.95 mmol, 134 mg | N1N=CN=C1 | C2H3N3
reactant | K2CO3 | 2.60 mmol, 359 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 5-methoxy-2-1,2,4-triazol-1-yl-benzaldehyde | 53 mg, 20% | COC=1C=CC(=C(C=O)C1)N1N=CN=C1 | C10H9N3O2
